US07897597B2
4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (2.35 g, 7.1 mmol), cesium carbonate (4.6 g, 14.2 mmol), and DMF (50 mL) were combined. Propargyl bromide (80% in toluene, 3.2 g, 21.3 mmol) was added and the reaction was stirred overnight. The reaction was poured into 500 mL of water and solid potassium carbonate was added to keep the mixture basic. A precipitate formed. Filtration of the reaction followed by air drying of the recovered solid provided 1.8 g of 1-[4-amino-2-ethoxymethyl-7-(prop-2-ynyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an off white powder.

reactant | 4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 7.1 mmol, 2.35 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
reactant | cesium carbonate | 14.2 mmol, 4.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Propargyl bromide | 21.3 mmol, 3.2 g | C(C#C)Br | C3H3Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-amino-2-ethoxymethyl-7-(prop-2-ynyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 1.8 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCC#C | C20H24N4O3
